simulator lang=spectre
global 0

ahdl_include "./dut/lna_gain_compression_macro.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.47 18n 0.47 18.2n 0.58 42n 0.58 42.2n 0.72 64n 0.72 64.2n 0.25 92n 0.25]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 82n 0.9 82.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
XDUT (vin enable rst vout gain_metric compression_flag) lna_gain_compression_macro


tran tran stop=92n maxstep=200p
save vin enable rst vout gain_metric compression_flag
